US08975254B2
b) 1-trityl-1H-imidazole-4-carbonitrile
Into a mixture containing triphenylmethyl chloride (1.647 g, 5.91 mmol), 1H-imidazole-4-carbonitrile (0.5 g, 5.37 mmol) and dry acetonitrile (17 ml), triethylamine (1.295 ml, 9.29 mmol) was added dropwise and the resulting mixture stirred overnight at RT. Hexane (1.6 ml) and water (17 ml) were poured into the mixture and the stirring was continued for another 30 min. The precipitate was filtered and dried with vacuum. 1H-NMR (400 MHz; CDCl3): δ 7.06-7.12 (m, 6H), 7.35-7.40 (m, 10H), 7.49 (d, 1H).

reactant | triphenylmethyl chloride | 5.91 mmol, 1.647 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 1H-imidazole-4-carbonitrile | 5.37 mmol, 0.5 g | N1C=NC(=C1)C#N | C4H3N3
reactant | acetonitrile | 17 ml | C(C)#N | C2H3N
reactant | triethylamine | 9.29 mmol, 1.295 ml | C(C)N(CC)CC | C6H15N
solvent | water | 17 ml | O | H2O
solvent | Hexane | 1.6 ml | CCCCCC | C6H14
product | 1-trityl-1H-imidazole-4-carbonitrile | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C#N | C23H17N3
